US08835627B2
(2-{2-[(3-hydroxypropyl)amino]ethyl}-4,5-dimethoxyphenyl)acetonitrile
To a suspension of 10.8 g of NaBH4 (284 mmol, 11 eq.) in 110 mL of THF there is added, at several points over a period of time, ethyl N-{2-[2-(cyanomethyl)-4,5-dimethoxyphenyl]ethyl}-β-alaninate oxalate (10.6 g, 25.9 mmol). Stirring is carried out for 30 minutes at ambient temperature, and then 23.1 ml of methanol (570 mmol, 22 eq.) are poured in dropwise. The mixture is heated for 16 hours at 60° C., and is then hydrolysed using 100 mL of 5N hydrochloric acid. There are then added 100 mL of dichloromethane and 200 mL of demineralised water. After separation of the phases, 50 ml of 10N sodium hydroxide solution are added (pH>10) to the aqueous phase and extraction is carried out using 3×70 mL of dichloromethane. The organic phases are combined and washed with 2×75 mL of saturated aqueous NaCl solution and then dried over MgSO4. After carrying out drying in vacuo, there are obtained 6.15 g of a colourless oil corresponding to the title compound.

reactant | NaBH4 | 284 mmol, 10.8 g, 11 eq. | [BH4-].[Na+]
reactant | ethyl N-{2-[2-(cyanomethyl)-4,5-dimethoxyphenyl]ethyl}-β-alaninate oxalate | 25.9 mmol, 10.6 g | C(C(=O)O)(=O)O.C(#N)CC1=C(C=C(C(=C1)OC)OC)CCNCCC(=O)OCC
reactant | methanol | 570 mmol, 23.1 ml, 22 eq. | CO | CH4O
reactant | hydrochloric acid | 5N, 100 mL | Cl | ClH
solvent | THF | 110 mL | C1CCOC1 | C4H8O
solvent | water | 200 mL | O | H2O
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | (2-{2-[(3-hydroxypropyl)amino]ethyl}-4,5-dimethoxyphenyl)acetonitrile | 6.15 g, Yield: 85% | OCCCNCCC1=C(C=C(C(=C1)OC)OC)CC#N | C15H22N2O3
